US09422312B2
Step 2: (3R,3aR,6R,6aR)-6-(6-Chloro-5-iodo-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol
(3R,3aR,6R,6aR)-Hexahydrofuro[3,2-b]furan-3,6-diol (1.84 g) is dissolved in N,N-dimethylformamide (10 mL) and treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU; 1.9 mL). A solution of 6-chloro-5-iodo-2-(methylsulfonyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridine (2.05 g) in N,N-dimethylformamide (20 mL) is added drop wise and the mixture is stirred for 2 hours at room temperature. The mixture is partitioned between water and ethyl acetate and the organic phase is washed with brine and dried (MgSO4). The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 80:20→0:100) to give the title compound. LC (method 1): tR=1.17 min; Mass spectrum (ESI+): m/z=554 [M+H]+.

reactant | (3R,3aR,6R,6aR)-Hexahydrofuro[3,2-b]furan-3,6-diol | 1.84 g | O1[C@H]2[C@@H]([C@@H](C1)O)OC[C@H]2O | C6H10O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.9 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 6-chloro-5-iodo-2-(methylsulfonyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridine | 2.05 g | ClC=1C=C2C(=NC1I)N(C(=N2)S(=O)(=O)C)COCC[Si](C)(C)C | C13H19ClIN3O3SSi
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (3R,3aR,6R,6aR)-6-(6-Chloro-5-iodo-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1I)N(C(=N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O)COCC[Si](C)(C)C | C18H25ClIN3O5Si
